US07834012B2
Methyl 2-methylene-4-nitro-5-(2,4,5-trifluorophenyl)oct-7-enoate
To a cooled (5° C.) and mechanically-stirred solution of 1,2,4-trifluoro-5-(1-nitropent-4-en-2-yl)benzene (266.3 g, 1.09 mol) and bromocrotonate (151 mL, 1.13 mol) in THF (270 mL), NaOH (322 mL, 1.61 mol, 5 M) was added. The resulting biphasic mixture was stirred vigorously for thirty minutes. The mixture was allowed to warm to room temperature, and was then diluted with methyl t-butyl ether (950 mL). The layers were separated, and the organic was washed with H2O (2×500 mL) and brine (1×500 mL). The organic layer was dried with anhydrous Na2SO4 and concentrated under reduced pressure to give the title compound as a 1:1 mixture of erythro and threo isomers (365 g, 98%). Threo isomer: 1H NMR (300 MHz, CDCl3) δ ppm 7.00-6.86 (m, 2H), 6.25 (s, 1H), 5.66 (br s, 1H), 5.57 (dddd, J=6.8, 6.8, 10.5, and 17.3 Hz, 1H), 5.12-4.97 (m, 2H), 3.80 (s, 3H), 3.50 (ddd, J=5.4, 9.5 and 9.5 Hz, 1H), 3.12 (ddd, J=1.0, 2.7, and 14.0 Hz, 1H), 2.72 (dd, J=11.2 and 14.0 Hz, 1H), 2.63-2.59 (m, 1H), and 2.52-2.38 (m, 1H). Erythro isomer: 1H NMR (300 MHz, CDCl3) δ ppm 7.09-6.91 (m, 2H), 6.20 (br s, 1H), 5.60 (br s, 1H), 5.56-5.42 (m, 1H), 5.09-4.91 (m, 2H), 3.75 (s, 3H), 3.55 (ddd, J=6.1, 10.5, and 10.5 Hz, 1H), 2.62-2.59 (m, 2H), and 2.44-2.38 (m, 2H).

reactant | 1,2,4-trifluoro-5-(1-nitropent-4-en-2-yl)benzene | 1.09 mol, 266.3 g | FC1=C(C=C(C(=C1)C(C[N+](=O)[O-])CC=C)F)F | C11H10F3NO2
reactant | bromocrotonate | 1.13 mol, 151 mL | Br/C(/C(=O)[O-])=C\C
reactant | NaOH | 1.61 mol, 5 M, 322 mL | [OH-].[Na+]
reactant | THF | 270 mL | C1CCOC1 | C4H8O
solvent | methyl t-butyl ether | 950 mL | C(C)(C)(C)OC | C5H12O
product | Methyl 2-methylene-4-nitro-5-(2,4,5-trifluorophenyl)oct-7-enoate | C=C(C(=O)OC)CC(C(CC=C)C1=C(C=C(C(=C1)F)F)F)[N+](=O)[O-] | C16H16F3NO4
